US03966801
β-(2'-chloro-4-biphenylyl)propionyl chloride (28 g.) in 500 ml glyme is treated dropwise with a solution of lithium tri-t-butoxyaluminum hydroxide (25.5 g.) in 500 ml. diglyme while maintaining the reaction temperature at -70°C with dry ice. When addition is complete, the mixture is allowed to come to room temperature, is diluted with ether, and washed with water, dilute HCl and brine. The solvent is dried over sodium sulfate, evaporated under vacuo and the residue distilled to give β-(2'-chloro-4-biphenylyl)propionaldehyde

reactant | β-(2'-chloro-4-biphenylyl)propionyl chloride | 28 g | ClC1=C(C=CC=C1)C1=CC=C(C=C1)CCC(=O)Cl | C15H12Cl2O
reactant | lithium tri-t-butoxyaluminum hydroxide | 25.5 g | [OH-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | diglyme | COCCOCCOC | C6H14O3
reactant | dry ice | C(=O)=O | CO2
solvent | glyme | 500 ml | C(OC)COC | C4H10O2
solvent | ether | CCOCC | C4H10O
product | β-(2'-chloro-4-biphenylyl)propionaldehyde | ClC1=C(C=CC=C1)C1=CC=C(C=C1)CCC=O | C15H13ClO
